US06579872B1
N-[5-(3-dimethylaminobenzamido)-2-methylphenyl]-4-(3-morpholinopropylamino)benzamide
Using an analogous procedure to that described in Example 20, N-[5-(3-dimethylaminobenzamido)-2-methylphenyl]-4-fluorobenzamide was reacted with 3-morpholinopropylamine to give the title compound in 3% yield; NMR Spectrum: (DMSOd6) 1.77 (m, 2H), 2.24 (s, 3H), 2.46 (m, 6H), 3.02 (s, 6H), 3.16 (q, 2H), 3.65 (t, 4H), 6.33 (t, 1H), 6.67 (d, 2H), 6.97 (m, 1H), 7.28 (m, 2H), 7.36 (t, 1H), 7.62 (m, 1H), 7.83 (m, 3H), 9.45 (s, 1H), 10.06 (s, 1H); Mass Spectrum: M+H+ 516.

reactant | N-[5-(3-dimethylaminobenzamido)-2-methylphenyl]-4-fluorobenzamide | CN(C=1C=C(C(=O)NC=2C=CC(=C(C2)NC(C2=CC=C(C=C2)F)=O)C)C=CC1)C | C23H22FN3O2
reactant | 3-morpholinopropylamine | O1CCN(CC1)CCCN | C7H16N2O
product | N-[5-(3-dimethylaminobenzamido)-2-methylphenyl]-4-(3-morpholinopropylamino)benzamide | 3% yield | CN(C=1C=C(C(=O)NC=2C=CC(=C(C2)NC(C2=CC=C(C=C2)NCCCN2CCOCC2)=O)C)C=CC1)C | C30H37N5O3
